*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents
.options savevoltages

*numero espiras
.param N2=1/16.8

******************************************
* input voltage source
Vs 9 GND 0 sin(0 230 50)
F1 9 GND Vim {N2}

*fonte tensao dep
E2 1 4 9 GND N2

*fonte tensao imaginaria
Vim 1 2 0V

*Bridge Rectifier
Dp1 2 3 Default
Dp2 4 3 Default
Dp3 GND 2 Default
Dp4 GND 4 Default

*Envelope Detector (restantes componentes)
Rs 3 5 0.6
CL 5 GND 4m
RL 5 GND 1.5k

*Rs<<<<<RL
*maior Rs -> menor V0
*maior CL -> menor delta V0


*Voltage Regulator

D1 6 5 Default
D2 7 6 Default 
D3 8 7 Default 
D4 10 8 Default 
D5 11 10 Default
D6 12 11 Default 
D8 13 12 Default 
D9 14 13 Default 
D10 15 14 Default 
D11 16 15 Default 
D12 17 16 Default 
D13 18 17 Default 
D14 19 18 Default 
D15 20 19 Default 
D16 21 20 Default 
D17 22 21 Default 
D18 GND 22 Default

.model Default D
.op

.end


.control

* analise no tempo
echo "********************************************"
echo  "Transiant Analisys"
echo "********************************************"
tran 1e-5 200m

*calcular a media da voltagem v0
meas tran yavg AVG v(5) from=0.160 to=0.180

*calcular a voltagem pico a pico
meas tran ypp PP v(5) from=0.160 to=0.180
*print ypp

*calcular ripple max-min
meas tran ymax MAX v(5) from=0.160 to=0.180
meas tran ymin MIN v(5) from=0.160 to=0.180
*print ymax-ymin

*imprimir na tabela
echo  "opsim_TAB"
print yavg
*print ypp
print 1/((3+1.8+0.4)*(12-yavg+0.000001+ypp))
print ymax-ymin
echo  "opsim_END"

*merito
*print 1/((3+1.8+0.4)*(12-yavg+0.000001+ypp))

echo "op_END"

.endc
.control

set hcopypscolor=1
set color0=white
*set color1=black
*set color2=red
*set color3=blue
*set color4=violet
*set color5=rgb:3/8/0
*set color6=rgb:4/0/0

******************************************
* analise no tempo
echo "********************************************"
echo  "Transiant Analisys"
echo "********************************************"
tran 1e-5 600m 400m


*plot voltage output Envelope Detector
hardcopy envdect.ps v(3)-v(5)
echo envdect_FIG

*plot voltage output Voltage Regulator 

hardcopy vreg.ps v(5)
echo vreg_FIG

*plot v0-12 

hardcopy vout.ps v(5)-12
echo vout_FIG

echo "op_END"

.endc












